US07473698B2
N-[2,4-Difluoro-5-(4-Piperidinyl)Phenyl]-5-(2-Methoxyphenyl)Pentanamide
Into a solution of tert-butyl 4(2,4-difluoro-5-{[5-(2-methoxyphenyl)pentanoyl]amino}phenyl)-1-piperidinecarboxylate (310 mg, 0.620 mmol) in dichloromethane (5.00 mL) at 0° C. was slowly added trifluoroacetic acid (707 mg, 6.20 mmol). The reaction mixture was stirred at room temperature for 10 min and concentrated in vacuo. The residue was dissolved in i-PrOH/CHCl3 (1:3, 10 mL) and basified to pH 11 with 10% KOH solution, washed with H2O, followed by brine. The organic layer was separated, dried over MgSO4 and concentrated in vacuo to afford the desired product (108 mg, 43.3%). 1H NMR (400 MHz, CDCl3) δ 7.59 (t, 1H, J=8.2 Hz), 7.10-6.96 (m, 2H), 6.90-6.68 (m, 3H), 3.67 (s, 3H), 3.09 (d, 2H, J=12.4 Hz), 2.89 (tt, 1H, J=11.8 Hz), 2.69 (dt, 2H, J=2.6, 12.4 Hz), 2.54 (t, 2H, J=7.2 Hz), 2.33 (t, 2H, J=7.2 Hz), 1.76-1.48 (m, 8H); ESMS m/e: 403.3 (M+H)+.

reactant | tert-butyl 4(2,4-difluoro-5-{[5-(2-methoxyphenyl)pentanoyl]amino}phenyl)-1-piperidinecarboxylate | 0.620 mmol, 310 mg | FC1=C(C=C(C(=C1)F)NC(CCCCC1=C(C=CC=C1)OC)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C28H36F2N2O4
reactant | trifluoroacetic acid | 6.20 mmol, 707 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
product | N-[2,4-Difluoro-5-(4-Piperidinyl)Phenyl]-5-(2-Methoxyphenyl)Pentanamide | 108 mg, 43.3% | FC1=C(C=C(C(=C1)F)C1CCNCC1)NC(CCCCC1=C(C=CC=C1)OC)=O | C23H28F2N2O2
